US05447925
3,4-Dihydroxy-5-cyanobenzoic acid, (see GB 2 200 109) was converted, essentially as above, to allyl 3,4-diallyloxy-5-cyanobenzoate: NMR (CDCl3) 4.63 (m, 2H); 4.77-4.87 (m, 4H); 5.23-5.51 (m, 6H); 5.92-6.18 (m, 3H); 7.76 (d, 1H); 7.86 (d, 1H). This ester was hydrolysed as above to give 3,4-diallyloxy-5-cyanobenzoic acid: NMR (DMSO-d6) 4.72-4.84 (m, 4H); 5.23-5.51 (m, 4H); 5.93-6.18 (m, 2H); 7.79 (s, 2H).

reactant | 3,4-Dihydroxy-5-cyanobenzoic acid | OC=1C=C(C(=O)O)C=C(C1O)C#N | C8H5NO4
reactant | allyl 3,4-diallyloxy-5-cyanobenzoate | C(C=C)OC=1C=C(C(=O)OCC=C)C=C(C1OCC=C)C#N | C17H17NO4
product | 3,4-diallyloxy-5-cyanobenzoic acid | C(C=C)OC=1C=C(C(=O)O)C=C(C1OCC=C)C#N | C14H13NO4
